US06919322B2
A solution of phenylacetylene (1 mmole) in anhydrous THF (5 mL) was treated with TMEDA (1.2 mmole) followed by n-BuLi (1.2 mmole) at −78° C. After 30 min the reaction was treated with diethyl chlorophosphate, and the resulting solution was stirred at −78° C. for 1 h. The reaction was quenched with saturated ammonium chloride. Extraction and chromatography gave 1-diethylphosphono-2-phenylacetylene as an oil.

reactant | phenylacetylene | 1 mmole | C1(=CC=CC=C1)C#C | C8H6
reactant | TMEDA | 1.2 mmole | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 1.2 mmole | [Li]CCCC
reactant | diethyl chlorophosphate | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-diethylphosphono-2-phenylacetylene | C(C)OP(=O)(OCC)C#CC1=CC=CC=C1 | C12H15O3P
